US07252849B2
e) Synthesis of Ethyl 6-Oxodecanoate
A mixture of activated zinc-copper catalyst (11.5 g), butyl acetate (4 g), toluene (5 g), butyl iodide (15 g) and iodine (3 mg) was heated at 110-120° C. for 2 hours. The mixture was then added dropwise with adipic acid monoethyl ester chloride(15.7 g) at 0° C., and then was allowed to react. After the reaction was completed, ice-cooled water was added to the reaction solution, and then decomposed with dilute sulfuric acid. The oily layer was extracted with ether, washed with aqueous sodium hydrogencarbonate, washed with water, and then dried. The residue was evaporated to remove the solvent, and then distilled, thereby giving ethyl 6-oxodecanoate (8.1 g).

reactant | butyl iodide | 15 g | C(CCC)I | C4H9I
reactant | iodine | 3 mg | II | I2
reactant | adipic acid monoethyl ester chloride | 15.7 g | [Cl-].C(C)OC(CCCCC(=O)O)=O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
catalyst | zinc-copper | 11.5 g | [Cu].[Zn]
solvent | water | O | H2O
solvent | toluene | 5 g | C1(=CC=CC=C1)C | C7H8
solvent | butyl acetate | 4 g | C(C)(=O)OCCCC | C6H12O2
product | Ethyl 6-Oxodecanoate | O=C(CCCCC(=O)OCC)CCCC | C12H22O3
